### PR TITLE
[Merged by Bors] - refactor: Generalize Matrix.toEuclideanLin to PiLp

### PR DESCRIPTION
**Pull request by eric-wieser**
We can then recover the euclidean case as an `abbrev`.

Also adds some lemmas about matrix multiplication.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 1]
```diff
@@ -1257,4 +1258,5 @@ open Matrix LinearMap EuclideanSpace in
 theorem InnerProductSpace.symm_toEuclideanLin_rankOne {𝕜 m n : Type*} [RCLike 𝕜] [Fintype m]
     [Fintype n] [DecidableEq n] (x : EuclideanSpace 𝕜 m) (y : EuclideanSpace 𝕜 n) :
     toEuclideanLin.symm (rankOne 𝕜 x y) = .vecMulVec x (star y) := by
-  simp [toEuclideanLin, toMatrix', ← ext_iff, vecMulVec_apply, inner_single_right, mul_comm]
+  simp [toLpLin, toMatrix', ← ext_iff, vecMulVec_apply, inner_single_right,
+    mul_comm]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]:
```suggestion
  simp [toLpLin, toMatrix', ← ext_iff, vecMulVec_apply, inner_single_right, mul_comm]
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 2]
```diff
@@ -1176,35 +1177,35 @@ namespace Matrix
...
-def toEuclideanLin : Matrix m n 𝕜 ≃ₗ[𝕜] EuclideanSpace 𝕜 n →ₗ[𝕜] EuclideanSpace 𝕜 m :=
-  Matrix.toLin' ≪≫ₗ
-    LinearEquiv.arrowCongr (WithLp.linearEquiv _ 𝕜 (n → 𝕜)).symm
-      (WithLp.linearEquiv _ 𝕜 (m → 𝕜)).symm
+/-- A shorthand for `Matrix.toLpLin 2 2`. -/
+abbrev toEuclideanLin : Matrix m n 𝕜 ≃ₗ[𝕜] EuclideanSpace 𝕜 n →ₗ[𝕜] EuclideanSpace 𝕜 m :=
+  toLpLin 2 2
 
-@[simp]
+@[simp, deprecated toLpLin_toLp (since := "2026-01-22")]
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean]: should we really be deprecating them if they're also good simp lemmas?

File: Mathlib/Analysis/Normed/Lp/Matrix.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+namespace Matrix
+variable [Fintype n] [DecidableEq n] [CommRing R] (p q r : ℝ≥0∞)
+
+open WithLp (toLp ofLp)
+
+/-- `Matrix.toLin'` adapted for `PiLp R _`. -/
+def toLpLin : Matrix m n R ≃ₗ[R] WithLp p (n → R) →ₗ[R] WithLp q (m → R) :=
+  Matrix.toLin' ≪≫ₗ
+    LinearEquiv.arrowCongr (WithLp.linearEquiv _ R (n → R)).symm
+      (WithLp.linearEquiv _ R (m → R)).symm
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Lp/Matrix.lean]:
```suggestion
  toLin' ≪≫ₗ
    (WithLp.linearEquiv _ R (n → R)).symm.arrowCongr
      (WithLp.linearEquiv _ R (m → R)).symm
```

File: Mathlib/Analysis/Normed/Lp/Matrix.lean [hunk 4]
```diff
@@ -0,0 +1,82 @@
...
+
+@[simp]
+lemma toLpLin_toLp (A : Matrix m n R) (x : n → R) :
+    Matrix.toLpLin p q A (toLp _ x) = toLp _ (Matrix.toLin' A x) := rfl
+
+@[simp]
+theorem ofLp_toLpLin (A : Matrix m n R) (x : WithLp p (n → R)) :
+    ofLp (Matrix.toLpLin p q A x) = Matrix.toLin' A (ofLp x) :=
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Lp/Matrix.lean]: I feel like dot notation would look better throughout
```suggestion
    (A.toLpLin p q x).ofLp = A.toLin' x.ofLp :=
```

File: Mathlib/Analysis/Normed/Lp/Matrix.lean [hunk 5]
```diff
@@ -0,0 +1,82 @@
...
+
+theorem toLpLin_eq_toLin [Finite m] :
+    toLpLin p q = Matrix.toLin (PiLp.basisFun p R n) (PiLp.basisFun q R m) :=
+  rfl
+
+@[simp]
+theorem toLpLin_one : toLpLin p p (1 : Matrix n n R) = LinearMap.id := by ext; simp
+
+/-- Note that applying this theorem needs an explicit choice of `q`. -/
+theorem toLpLin_mul [Fintype o] [DecidableEq o] (A : Matrix m n R) (B : Matrix n o R) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Lp/Matrix.lean:54]: Maybe also add a `simp` version of this for `(A * B).toLpLin p p`?
Or maybe for `toEuclideanLin`?

File: Mathlib/Analysis/Normed/Lp/Matrix.lean [hunk 6]
```diff
@@ -0,0 +1,82 @@
...
+    toLpLin p r (A * B) = toLpLin q r A ∘ₗ toLpLin p q B := by
+  ext; simp
+
+@[simp]
+theorem toLpLin_symm_id : (toLpLin p p).symm .id = (1 : Matrix n n R) :=
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Lp/Matrix.lean:66]: am I wrong in thinking that we decided that we should prefix the naming unless there's notation involved and special cases like `injective` etc? same thing below?
```suggestion
theorem symm_toLpLin_id : (toLpLin p p).symm .id = (1 : Matrix n n R) :=
```

File: Mathlib/Analysis/Normed/Lp/Matrix.lean [hunk 7]
```diff
@@ -0,0 +1,82 @@
...
+@[simps!]
+def toLpLinAlgEquiv : Matrix n n R ≃ₐ[R] Module.End R (WithLp p (n → R)) :=
+  .ofLinearEquiv (toLpLin p p) (toLpLin_one p) (toLpLin_mul p p p)
+
+@[simp]
+theorem toLpLin_pow (A : Matrix n n R) (k : ℕ) : toLpLin p p (A ^ k) = toLpLin p p A ^ k :=
+  map_pow (toLpLinAlgEquiv p) A k
+
+@[simp]
+theorem toLpLinSymm_pow (A : Module.End R (WithLp p (n → R))) (k : ℕ) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Lp/Matrix.lean]:
```suggestion
theorem symm_toLpLin_pow (A : Module.End R (WithLp p (n → R))) (k : ℕ) :
```

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean]: I don't think `x.ofLp` reads very well, the words are in the wrong order. Also this is copied verbatim from the previous term!

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean:54]: Done

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean:66]: I think we treat `symm` as a special case; certainly `@[simps]` generates tonnes of `foo_symm_apply` lemmas.

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/PiL2.lean]: I've now un-`simp`ed them. They're not needed, since the other simp lemmas fire instead.

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean]: Whoops, that was clumsy. I've applied a different fix based on the discussion above.

File: Mathlib/Analysis/Normed/Lp/Matrix.lean [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+theorem toLpLin_mul [Fintype o] [DecidableEq o] (A : Matrix m n R) (B : Matrix n o R) :
+    toLpLin p r (A * B) = toLpLin q r A ∘ₗ toLpLin p q B := by
+  ext; simp
+
+/-- A copy of `toLpLin_mul` that works for `simp`, for the common case where the domain and codomain
+have the same norm. -/
+@[simp]
+theorem toLpLin_mul_same [Fintype o] [DecidableEq o] (A : Matrix m n R) (B : Matrix n o R) :
+    toLpLin p p (A * B) = toLpLin p p A ∘ₗ toLpLin p p B :=
+  toLpLin_mul _ _ _ _ _
```
Comment (vihdzp) [inline Mathlib/Analysis/Normed/Lp/Matrix.lean:63]:
```suggestion
  toLpLin_mul ..
```

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 4 above)
Comment (themathqueen) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean]: Fair, fair. But maybe do `A.toLpLin`, it reads better than `toLpLin p q A` in my opinion.

**Review by themathqueen — APPROVED** [review]

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/PiL2.lean]: Why did the simpNF linter not catch those?

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 6 above)
Comment (themathqueen) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean:66]: I also thought the plan down the line was to change the `@[simps]` to spell `symm_foo_apply` and generate thousands of deprecations

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean:66]: Perhaps, but I'd be inclined to wait until we record that in a tracking issue / zulip thread / style guide before starting to diverge.

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean:63]: I think the `_` spelling is better since it's easier to fill in the holes and see their expected types. (It's also less work for the elaborator)

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/PiL2.lean]: I guess it allows duplicates in the face of `abbrev`?

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean]: `A.toLpLin p q` not legal, because `toLpLin` is bundled.

File: Mathlib/Analysis/Normed/Lp/Matrix.lean (hunk 6 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Lp/Matrix.lean:66]: There are already plenty of places where it diverges due to the `@[simp]` direction for `symm` lemmas refactor which happened last year. We're going to have a mess to clean up either way, but indeed it is still undecided.

**Review by j-loreaux — COMMENTED** [review]
Thanks! This was pretty easy to review.

bors merge
